US04743585
5-(2-Methylpropyl)-2-phenyl-3-morpholinone (center phenyl is R, S, other center is S), 0.95 g (0.0041 mole), was suspended in a solution of 50 ml of concentrated hydrochloric acid and 50 ml of water, heated for one hour on a steam bath, cooled to room temperature, and extracted with 100 ml of dichloromethane. The aqueous layer was separated and the pH adjusted with sodium hydroxide to pH 10.5 and 0.84 g (0.0049 mole) of benzyl chloroformate was added dropwise while the pH was maintained at 10.5 with sodium hydroxide. After addition was complete the mixture was extracted with 100 ml of diethylether, the aqueous layer was separated and the pH adjusted to 3 by the addition of a 10% aqueous solution of hydrochloric acid. The mixture was extracted with 200 ml of dichloromethane. The dichloromethane layer was separated, dried over sodium sulfate, evaporated in vacuo and the residue purified by chromatography using silica gel and eluting with 1 l of dichloromethane-methanol (95:5) to give α-[[4-methyl-2[[(phenylmethoxy)carbonyl]amino]pentyl]oxy]benzeneacetic acid (α-carbon is R, S, other stereo site is S), 1.1 g; [α]D25 =-78.9° (C, 0.56, methanol).

reactant | 5-(2-Methylpropyl)-2-phenyl-3-morpholinone | CC(CC1COC(C(N1)=O)C1=CC=CC=C1)C | C14H19NO2
reactant | hydrochloric acid | 50 ml | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
reactant | benzyl chloroformate | 0.0049 mole, 0.84 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | water | 50 ml | O | H2O
product | α-[[4-methyl-2[[(phenylmethoxy)carbonyl]amino]pentyl]oxy]benzeneacetic acid | CC(CC(COC(C(=O)O)C1=CC=CC=C1)NC(=O)OCC1=CC=CC=C1)C | C22H27NO5
